US05780642
A mixture of 1-{1-[4-(4,4-dimethyl-2-oxazolin-2-yl)phenyl]-1-methylethylamino}-3-(imidazol-1-yl)propan-2-ol (100 mg) and a solution of sulphuric acid in propan-1-ol (5 ml) [prepared by adding concentrated sulphuric acid (4 ml) and then water (5 ml) to propan-1-ol (50 ml) and making up to 100 ml with propan-1-ol] was heated on a steam bath for 18 hours. The mixture was evaporated under reduced pressure. The residue was basified with aqueous sodium hydroxide solution and then extracted with dichloromethane to give a residue which was purified by flash column chromatography on silica using ethyl acetate/triethylamine (9:1) with increasing amounts of ethanol to give propyl 4-{1-[2-hydroxy-3-(imidazol-1-yl)propylamino]-1-methylethyl}benzoate as an oil.

reactant | 1-{1-[4-(4,4-dimethyl-2-oxazolin-2-yl)phenyl]-1-methylethylamino}-3-(imidazol-1-yl)propan-2-ol | 100 mg | CC1(N=C(OC1)C1=CC=C(C=C1)C(C)(C)NCC(CN1C=NC=C1)O)C | C20H28N4O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sulphuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 5 ml | O | H2O
solvent | propan-1-ol | 5 ml | C(CC)O | C3H8O
solvent | propan-1-ol | 50 ml | C(CC)O | C3H8O
product | propyl 4-{1-[2-hydroxy-3-(imidazol-1-yl)propylamino]-1-methylethyl}benzoate | OC(CNC(C)(C)C1=CC=C(C(=O)OCCC)C=C1)CN1C=NC=C1 | C19H27N3O3
